### PR TITLE
feat(GreensOpenProblems/5): largest product-free sets in finite groups

### LINKED ISSUE #893: Green's Open Problems #5
### What is the conjecture
https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#section.1 Problem 5

Which finite groups have the smallest biggest product-free sets?

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by theebayuser**
Resolves #893

## Summary
- Formalises [Ben Green's Open Problem 5](https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#problem.5): "Which finite groups have the smallest biggest product-free sets?"
- The main statement `green_5` renders this as the sharp-exponent question via `IsGreatest … answer(sorry)`: the largest $\alpha$ such that every nontrivial finite group of order $n$ has a product-free set of size $\geq c\,n^{\alpha}$.
- Variants: `kedlaya` (every finite group has a product-free subset of size $\gg n^{11/14}$ [Ke97]); `sl_two` (the $\mathrm{SL}_2(\mathbb{F}_p)$ model problem, open); `gowers_sl_two` (the $O(n^{8/9})$ upper bound for $\mathrm{SL}_2(\mathbb{F}_p)$ [Go08]).
- Adds a shared `IsProductFree` definition and `isProductFree_iff` to `FormalConjecturesForMathlib/Combinatorics/Basic.lean`, next to the existing `IsSumFree`. Mathlib has no product-free predicate.

Note: the candidate extremal family (Ree groups ${}^2G_2(q)$) that Green suggests may witness sharpness is not available in Mathlib, so it is described in the docstring rather than formalised.

## Test plan
- [x] `lake --wfail build 'FormalConjectures.GreensOpenProblems.«5»'` passes with no errors or warnings (the `isProductFree_iff` proof in ForMathlib is complete — no `sorry`).
- [x] Problem statement and bibliography checked against Green's "100 open problems" PDF.

### CODE REVIEW

File: FormalConjecturesForMathlib/Combinatorics/Basic.lean [hunk 1]
```diff
@@ -32,6 +32,17 @@ if the equation $a + b = c$ has no solution with $a, b, c \in A$.
...
+A set $S$ is said to be product-free if the product set $S \cdot S$ is disjoint from $S$,
+i.e. if the equation $x \cdot y = z$ has no solution with $x, y, z \in S$.
+-/
+def IsProductFree {M : Type*} [Mul M] (S : Set M) : Prop := Disjoint (S * S) S
+
+theorem isProductFree_iff {M : Type*} [Mul M] {S : Set M} :
+    IsProductFree S ↔ ∀ x ∈ S, ∀ y ∈ S, x * y ∉ S := by
+  simp [IsProductFree, Set.disjoint_left, Set.mem_mul]
+  aesop
+
```
Comment (mo271) [inline FormalConjecturesForMathlib/Combinatorics/Basic.lean]: can this be unified using the `to_additive` attribute?

soething like:
```lean4
/--
A set $S$ is said to be product-free if the product set $S \cdot S$ is disjoint from $S$,
i.e. if the equation $x \cdot y = z$ has no solution with $x, y, z \in S$.
-/
@[to_additive IsSumFree /--
A set $A$ is said to be sum-free if the sumset $A + A$ is disjoint from $A$, i.e.
if the equation $a + b = c$ has no solution with $a, b, c \in A$.
-/]
def IsProductFree {M : Type*} [Mul M] (S : Set M) : Prop := Disjoint (S * S) S

@[to_additive isSumFree_iff]
theorem isProductFree_iff {M : Type*} [Mul M] {S : Set M} :
    IsProductFree S ↔ ∀ x ∈ S, ∀ y ∈ S, x * y ∉ S := by
  simp [IsProductFree, Set.disjoint_left, Set.mem_mul]
  aesop
```

**Review by mo271 — COMMENTED** [review]
Thanks, LGTM, except for using `to_additive`

File: FormalConjectures/GreensOpenProblems/5.lean [hunk 2]
```diff
@@ -0,0 +1,87 @@
...
+
+*References:*
+- [Gr24] [Green, Ben. "100 open problems." (2024).](https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#problem.5)
+- [Ke97] Kedlaya, K. S., *Large product-free subsets of finite groups*, J. Combin. Theory
+  Ser. A 77 (1997), no. 2, 339–343.
+- [Ke09] Kedlaya, K. S., *Product-free subsets of groups, then and now*, Contemp. Math., 479,
+  American Mathematical Society, Providence, RI, 2009, 169–177.
+- [Go08] Gowers, W. T., *Quasirandom groups*, Combin. Probab. Comput. 17 (2008), no. 3,
+  363–387.
+-/
```
Comment (jeangud) [inline FormalConjectures/GreensOpenProblems/5.lean:32]:
```suggestion
- [BaSo85] Babai L, Sós VT. Sidon sets in groups and induced subgraphs of Cayley graphs.
  European Journal of Combinatorics. 1985 Jun 1;6(2):101-14.
-/
```

File: FormalConjectures/GreensOpenProblems/5.lean [hunk 3]
```diff
@@ -0,0 +1,87 @@
...
+@[category research open, AMS 5 20]
+theorem green_5 :
+    IsGreatest {α : ℝ | ∃ c > (0 : ℝ), ∀ (G : Type) [Group G] [Fintype G], Nontrivial G →
+      ∃ S : Finset G, IsProductFree (S : Set G) ∧
+        c * (Fintype.card G : ℝ) ^ α ≤ (S.card : ℝ)}
+      answer(sorry) := by
+  sorry
+
+/--
+Kedlaya [Ke97] observed, refining some work of Babai and Sós, that it follows from the
```
Comment (jeangud) [inline FormalConjectures/GreensOpenProblems/5.lean]:
```suggestion
Kedlaya [Ke97] observed, refining some work of Babai and Sós [BaSo85], that it follows from the
```

File: FormalConjectures/GreensOpenProblems/5.lean [hunk 4]
```diff
@@ -0,0 +1,87 @@
...
+classification of finite simple groups that every finite group $G$ of order $n$ has a
+product-free subset of size $\gg n^{11/14}$.
+-/
+@[category research solved, AMS 5 20]
+theorem green_5.variants.kedlaya :
+    ∃ c > (0 : ℝ), ∀ (G : Type) [Group G] [Fintype G], Nontrivial G →
+      ∃ S : Finset G, IsProductFree (S : Set G) ∧
+        c * (Fintype.card G : ℝ) ^ ((11 : ℝ) / 14) ≤ (S.card : ℝ) := by
+  sorry
+
```
Comment (jeangud) [inline FormalConjectures/GreensOpenProblems/5.lean:69]: (nit) We could lighten the syntax a bit with this shorthand (also used in edits below):
```suggestion

local notation "SL₂" p => SL(2, ZMod p)

```

File: FormalConjectures/GreensOpenProblems/5.lean [hunk 5]
```diff
@@ -0,0 +1,87 @@
...
+/--
+A good model problem would be to determine the largest product-free subsets of
+$\mathrm{SL}_2(\mathbb{F}_p)$.
+-/
+@[category research open, AMS 5 20]
+theorem green_5.variants.sl_two (p : ℕ) [Fact p.Prime] :
+    let S : ∀ q : ℕ, Set (SL(2, ZMod q)) := answer(sorry)
+    MaximalFor (IsProductFree (M := SL(2, ZMod p))) Set.ncard (S p) := by
```
Comment (jeangud) [inline FormalConjectures/GreensOpenProblems/5.lean]: Curious as to why you opted to introduce `q` as an intermediate variable to span subgroups of $\mathrm{SL}_2(𝔽_p)$, if anything $q$ should at least be constrained to primes as well?

Perhaps we could directly leverage `Finset` with something like this?
```suggestion
    let S : Finset (SL₂ p) := answer(sorry)
    MaximalFor (IsProductFree (M := SL₂ p)) Set.ncard (S : Set (SL₂ p)) := by
```

File: FormalConjectures/GreensOpenProblems/5.lean [hunk 6]
```diff
@@ -0,0 +1,87 @@
...
+$q = 3^{2m+1}$.
+-/
+@[category research open, AMS 5 20]
+theorem green_5 :
+    IsGreatest {α : ℝ | ∃ c > (0 : ℝ), ∀ (G : Type) [Group G] [Fintype G], Nontrivial G →
+      ∃ S : Finset G, IsProductFree (S : Set G) ∧
+        c * (Fintype.card G : ℝ) ^ α ≤ (S.card : ℝ)}
+      answer(sorry) := by
+  sorry
+
```
Comment (jeangud) [inline FormalConjectures/GreensOpenProblems/5.lean:57]: (nit) We could add a `-- TODO(theebayuser): implement Ree groups variant` for later when the tooling prerequisites have been defined.

File: FormalConjectures/GreensOpenProblems/5.lean [hunk 7]
```diff
@@ -0,0 +1,87 @@
...
+We formalise this as: determine the largest exponent $\alpha$ such that every nontrivial
+finite group of order $n$ contains a product-free set of size $\geq c n^{\alpha}$ for some
+absolute constant $c > 0$. (The trivial group is excluded since its only product-free subset
+is empty.) Kedlaya [Ke97] showed that $\alpha = 11/14$ is admissible, and Green suggests this
+exponent may well be sharp; the candidate extremal family is the Ree groups ${}^2G_2(q)$,
+$q = 3^{2m+1}$.
+-/
+@[category research open, AMS 5 20]
+theorem green_5 :
+    IsGreatest {α : ℝ | ∃ c > (0 : ℝ), ∀ (G : Type) [Group G] [Fintype G], Nontrivial G →
```
Comment (jeangud) [inline FormalConjectures/GreensOpenProblems/5.lean]: We should probably relax this to `IsLUB` in case the optimal exponent cannot be achieved exactly? This could happen if the exact growth behavior is like $n^C / \log n$, testing $\alpha = C$ would make the statement vacuously false.

```suggestion
IsLUB {α : ℝ | ∃ c > (0 : ℝ), ∀ (G : Type) [Group G] [Fintype G], Nontrivial G →
```

**Review by jeangud — COMMENTED** [review]
Nice effort adding the variants, thank you for the contribution @theebayuser !

I noted maybe a couple blockers on `IsLUB` vs. `IsGreatest` and `q` non-prime in `sl_two`, the rest are some lighter suggestions at your discretion.

Let me know what you think!

File: FormalConjecturesForMathlib/Combinatorics/Basic.lean (hunk 1 above)
Comment (theebayuser) [reply FormalConjecturesForMathlib/Combinatorics/Basic.lean]: done! as suggested

File: FormalConjectures/GreensOpenProblems/5.lean (hunk 6 above)
Comment (theebayuser) [reply FormalConjectures/GreensOpenProblems/5.lean:57]: good idea!

File: FormalConjectures/GreensOpenProblems/5.lean (hunk 5 above)
Comment (theebayuser) [reply FormalConjectures/GreensOpenProblems/5.lean]: haha I originally mirrored the `∀ n` family pattern from green_4, but you're right that it doesn't fit here - i applied your suggestion.

**Review by jeangud — APPROVED** [review]
LGTM! Thank you again
